US07732463B2
1-tert-Butoxycarbonyl-4-[2-(3-chloro-phenylsulfanyl)-5-fluoro-phenyl]-piperidine-4-ol (intermediate for 2a1).
Prepared from 4-hydroxy-4-(2-mercapto-5-fluoro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester and 1-chloro-3-iodo-benzene.

reactant | 4-hydroxy-4-(2-mercapto-5-fluoro-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=C(C=CC(=C1)F)S)O | C16H22FNO3S
reactant | 1-chloro-3-iodo-benzene | ClC1=CC(=CC=C1)I | C6H4ClI
product | 1-tert-Butoxycarbonyl-4-[2-(3-chloro-phenylsulfanyl)-5-fluoro-phenyl]-piperidine-4-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=C(C=CC(=C1)F)SC1=CC(=CC=C1)Cl | C22H25ClFNO3S
